US05223516
a) N-[2-[(Acetylthio)methyl]-3,3,3-trifluoro-1-oxopropyl]-L-aspartic acid
A stirred suspension of L-aspartic acid (2.66 g., 20 mmol.) in 35 mL of dry acetonitrile under argon was cooled to 0° C. and bis(trimethylsilyl)trifluoroacetamide (10.62 mL, 40 mmol) was added. The reaction mixture was allowed to stir and gradually warmed to room temperature overnight, and then 5 mL of dimethylformamide was added and the mixture was stirred for 2 hours. The resultant clear, light yellow solution was cooled to 5° C. and 2-trifluoromethyl-3-acetylthiopropionyl chloride (4.69 g., 20 mmol), dissolved in 6 mL of acetonitrile, was added dropwise. The reaction mixture was allowed to stir and warm to room temperature overnight, and then the solvent was evaporated. The yellow syrupy residue was partitioned between water (50 mL) and ethyl acetate (50 mL), and the organic layer was separated. The aqueous phase was further extracted with ethyl acetate (3×50 mL) and the combined ethyl acetate extract was washed with brine, dried (MgSO4) and evaporated to yield 12.2 g. of a light yellow residue. Flash chromatography on silica gel (125:1 silica gel to compound) eluting with ethyl acetate:acetic acid, 15:1 gave 5.25 g. of a major fraction which was a light yellow sticky solid and 0.63 g. fraction which was nearly homogeneous by TLC, for a total of 5.88 g. of the title compound as a mixture of diastereomers.

reactant | L-aspartic acid | 20 mmol, 2.66 g | N[C@@H](CC(=O)O)C(=O)O | C4H7NO4
reactant | bis(trimethylsilyl)trifluoroacetamide | 40 mmol, 10.62 mL | C[Si](C)(C)N(C(C(F)(F)F)=O)[Si](C)(C)C | C8H18F3NOSi2
reactant | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
reactant | 2-trifluoromethyl-3-acetylthiopropionyl chloride | 20 mmol, 4.69 g | FC(C(C(=S)Cl)CC(C)=O)(F)F | C6H6ClF3OS
solvent | acetonitrile | 35 mL | C(C)#N | C2H3N
solvent | acetonitrile | 6 mL | C(C)#N | C2H3N
product | N-[2-[(Acetylthio)methyl]-3,3,3-trifluoro-1-oxopropyl]-L-aspartic acid | C(C)(=O)SCC(C(=O)N[C@@H](CC(=O)O)C(=O)O)C(F)(F)F | C10H12F3NO6S
